US06211199B1
49.5 Synthesis of 1-(3,4,5-trimethoxybenzoyl)-3-(pyrid-3-yl)-3-(2-methanesulfonyloxyethyl)pyrrolidine
Combine 1-(3,4,5-trimethoxybenzoyl)-3-(pyrid-3-yl)-3-(2-hydroxyethyl)pyrrolidine (0.45 g, 1.16 mmol) in dichloromethane (6 mL). Cool in an ice bath. Add methanesulfonyl chloride (0.015 mL, 1.15 mmol) and triethylamine (0.032 mL, 1.6 mmol). After 1 hour, dilute the reaction mixture with dichloromethane and extract with brine. Separate the layers and extract the aqueous layers twice with dichloromethane. Combine the organic layers. Dry over MgSO4, filter, and evaporate in vacuo to give the title compound.

reactant | 1-(3,4,5-trimethoxybenzoyl)-3-(pyrid-3-yl)-3-(2-hydroxyethyl)pyrrolidine | 1.16 mmol, 0.45 g | COC=1C=C(C(=O)N2CC(CC2)(CCO)C=2C=NC=CC2)C=C(C1OC)OC | C21H26N2O5
reactant | methanesulfonyl chloride | 1.15 mmol, 0.015 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.6 mmol, 0.032 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 1-(3,4,5-trimethoxybenzoyl)-3-(pyrid-3-yl)-3-(2-methanesulfonyloxyethyl)pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(CCOS(=O)(=O)C)C=2C=NC=CC2)C=C(C1OC)OC | C22H28N2O7S
